US04174401
To 3.79 grams (0.027 mole) of boron trifluoride etherate in 3 milliliters of anhydrous ether under dry argon, is added as rapidly as possible while maintaining control of the reaction, 1.8 gram (0.02 mole) of epichlorohydrin in 7 milliliters of dry ether. After about 3 hours, the crystals of triethyloxonium fluoborate which are formed are separated and washed with fresh dry ether under dry argon. The crystals are then dissolved in dry methylene chloride (5 ml.) and a solution of 2.28 grams (0.02 mole) of 1,3-dimethyl-2-imidazolidinone in 25 milliliters of dry methylene chloride is added. After stirring at room temperature for about 3 hours, 3.66 gram (0.02 mole) of benzhydrylamine in 5 milliliters of methylene chloride is added. The resulting mixture is allowed to stir overnight at room temperature. Treatment of the reaction mixture with excess cold (0° C.) 20% NaOH, shaking, and separation of the organic layer gives a solution of the free base. This solution is dried over anhydrous potassium carbonate, filtered and the solvent is vaporized in vacuo to afford the 1,3-dimethyl-2-diphenylmethyliminoimidazolidine product.

reactant | 1,3-dimethyl-2-imidazolidinone | 0.02 mole, 2.28 grams | CN1C(N(CC1)C)=O | C5H10N2O
reactant | benzhydrylamine | 0.02 mole, 3.66 gram | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | NaOH | [OH-].[Na+]
solvent | methylene chloride | 25 milliliters | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 milliliters | C(Cl)Cl | CH2Cl2
product | 1,3-dimethyl-2-diphenylmethyliminoimidazolidine | CN1C(N(CC1)C)=NC(C1=CC=CC=C1)C1=CC=CC=C1 | C18H21N3
